US04859684
A mixture of 3 parts of ethyl 4-[5-(1H-imidazol-1-ylmethyl)-1H-benzimidazol-2-yl]benzoate and 50 parts of a hydrochloric acid solution 6N was stirred and refluxed for 12 hours. The reaction mixture was evaporated to dry. The residue was taken up in 2 parts of water and 2-propanone. The product was filtered off and dried, yielding 2 parts (59%) of 4-[5-(1H-imidazol-1-ylmethyl)-1H-benzimidazol-2-yl]benzoic acid dihydrochloride. monohydrate; mp. 288.2° C. (compound 259).

reactant | ethyl 4-[5-(1H-imidazol-1-ylmethyl)-1H-benzimidazol-2-yl]benzoate | N1(C=NC=C1)CC1=CC2=C(NC(=N2)C2=CC=C(C(=O)OCC)C=C2)C=C1 | C20H18N4O2
reactant | hydrochloric acid | 6N | Cl | ClH
product | 4-[5-(1H-imidazol-1-ylmethyl)-1H-benzimidazol-2-yl]benzoic acid dihydrochloride | 59% | Cl.Cl.N1(C=NC=C1)CC1=CC2=C(NC(=N2)C2=CC=C(C(=O)O)C=C2)C=C1 | InChI=1S/C18H14N4O2.2ClH/c23-18(24)14-4-2-13(3-5-14)17-20-15-6-1-12(9-16(15)21-17)10-22-8-7-19-11-22;;/h1-9,11H,10H2,(H,20,21)(H,23,24);2*1H
